US06974870B2
Synthesis of 3-Amino-6-dimethylamino-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid amide
2-(3-Cyano-4-methyl-6-trifluoromethanesulfonylpyridin-2-ylmercapto)acetamide (30.0 mg, 0.08 mmol) (prepared as described in Example 1 for the n-propyl analog but using methyl 2-butynoate) and dimethylamine (170.0 microL, 0.34 mmol) were mixed in 1,4-dioxane (0.5 mL) in a pressure tube and heated at 80° C. for 1 h. 2.0 M Aqueous sodium carbonate (520 □L, 1.04 mmol) was added, and the reaction heated at 100° C. for 6 h, then cooled to room temperature overnight. The mixture was poured into saturated aqueous ammonium chloride, and extracted with EtOAc. The organic extract was washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to afford 23.0 mg of the crude product. This was purified via automated flash silica chromatography (4 g silica gel column, 30-100% EtOAc/hexanes) to afford 9.0 mg (0.02 mmol, 45% yield) of the title compound.

reactant | 2-(3-Cyano-4-methyl-6-trifluoromethanesulfonylpyridin-2-ylmercapto)acetamide | 0.08 mmol, 30.0 mg | C(#N)C=1C(=NC(=CC1C)S(=O)(=O)C(F)(F)F)SCC(=O)N | C10H8F3N3O3S2
reactant | methyl 2-butynoate | C(C#CC)(=O)OC | C5H6O2
reactant | dimethylamine | 0.34 mmol | CNC | C2H7N
reactant | sodium carbonate | 1.04 mmol, 2.0 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-Amino-6-dimethylamino-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 0.02 mmol, 9.0 mg, 45% yield | NC1=C(SC2=NC(=CC(=C21)C)N(C)C)C(=O)N | C11H14N4OS
